US08623889B2
A round-bottom flask was charged with N-(7-bromoisoquinolin-3-yl)cyclopropanecarboxamide (3.0058 g, 10.324 mmol), tris(dibenzylideneacetone)dipalladium(0) chloroform adduct (0.1843 g, 0.1780 mmol), and 2-di-t-butylphosphino-3,4,5,6-tetramethyl-2′,4′,6′-tri-1-propylbiphenyl (0.2514 g, 0.5229 mmol). The flask was evacuated and backfilled with nitrogen five times and then 1,4-dioxane (10 mL, 200 mmol) and potassium hydroxide (2.413 g, 43.01 mmol) dissolved in water (10 mL, 800 mmol) were added. The reaction mixture was heated at 90° C. under a nitrogen balloon for 2 hours. The reaction mixture was then cooled to room temperature and poured into 150 mL water. The resulting precipitate was filtered, rinsed with water, and dried under vacuum to yield 1.7974 g (76%) of N-(7-hydroxyisoquinolin-3-yl)cyclopropanecarboxamide. LCMS (ESI): M+H=229.2; 1H NMR (400 MHz, DMSO-d6) δ 10.67 (s, 1H), 9.90 (s, 1H), 8.91 (s, 1H), 8.32 (s, 1H), 7.71 (d, J=8.9 Hz, 1H), 7.27 (dd, J=8.9, 2.3 Hz, 1H), 7.22 (s, 1H), 2.13-1.95 (m, 1H), 0.91-0.70 (m, 4H).

reactant | N-(7-bromoisoquinolin-3-yl)cyclopropanecarboxamide | 10.324 mmol, 3.0058 g | BrC1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | C13H11BrN2O
reactant | 1,4-dioxane | 200 mmol, 10 mL | O1CCOCC1 | C4H8O2
reactant | potassium hydroxide | 43.01 mmol, 2.413 g | [OH-].[K+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) chloroform adduct | 0.1780 mmol, 0.1843 g | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
catalyst | 2-di-t-butylphosphino-3,4,5,6-tetramethyl-2′,4′,6′-tri-1-propylbiphenyl | 0.5229 mmol, 0.2514 g | C(C)(C)(C)P(C1=C(C(=C(C(=C1C)C)C)C)C1=C(C=C(C=C1CCC)CCC)CCC)C(C)(C)C | C33H53P
solvent | water | 150 mL | O | H2O
solvent | water | 800 mmol, 10 mL | O | H2O
product | N-(7-hydroxyisoquinolin-3-yl)cyclopropanecarboxamide | 1.7974 g, 76% | OC1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | C13H12N2O2
